*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZR6R3ARA681MF80G
*//   Date        : 2024/7/30
*//   Version     : 1.0
*//   Comment     : U24C010197
*//   Simulator   : P-Spice
*//   Temperature : 20deg-C/-55deg-C/105deg-C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZR6R3ARA681MF80G_20deg-C 1 2

C1 4 2 1.19e-04
C2 5 2 4.28e-04
C3 6 2 9.57e-05
R1 3 4 1.34e-01
R2 4 5 6.98e-02
R3 5 6 1.66e+00
L1 1 3 3.00e-09

.ENDS

.SUBCKT EMZR6R3ARA681MF80G_-55deg-C 1 2

C1 4 2 1.87e-07
C2 5 2 6.49e-05
C3 6 2 3.83e-04
R1 3 4 2.15e+00
R2 4 5 8.83e-01
R3 5 6 1.55e+00
L1 1 3 3.00e-09

.ENDS


.SUBCKT EMZR6R3ARA681MF80G_105deg-C 1 2

C1 4 2 2.82e-04
C2 5 2 3.75e-04
C3 6 2 9.37e-05
R1 3 4 5.11e-02
R2 4 5 2.78e-02
R3 5 6 1.17e+00
L1 1 3 3.00e-09

.ENDS
*$
